US07384934B2
(R)-10-(3-Methoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
By using a similar coupling method to (S)-2-trifluoromethyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b, e][1,4]diazepine, using 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride (1.9 g) and (R)-2-methoxymethyl-piperazine (2.6 g) affords the title compound as a yellow solid (974 mg, 41%); mp 87-95° C.: 1H NMR (CDCl3) δ 2.32 (d, 3H), 2.69 (dd, 1H), 3.10-2.87 (m, 4H), 3.33 (dd, 1H), 3.38 (s, 3H), 3.49-3.43 (m, 1H), 3.94 (d, 1H), 4.02 (d, 1H), 4.98 (s, 1H), 6.30 (s, 1H), 6.61 (dd, 1H), 6.88 (dt, 1H), 6.97 (dt, 1H), 7.03 (dd, 1H); MS (APCI) m/z (rel intensity) 343.3 (100).

reactant | (S)-2-trifluoromethyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b, e][1,4]diazepine | FC(C1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCOC)C=CC=C3)C=C1)(F)F | C21H23F3N4O
reactant | 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 1.9 g | Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | (R)-2-methoxymethyl-piperazine | 2.6 g | COC[C@@H]1NCCNC1 | C6H14N2O
product | (R)-10-(3-Methoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 974 mg, 41% | COC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C18H22N4OS
